US08580957B2
A mixture of myristic acid (88 mg, 0.385 mmol), copper(II) acetate (23.29 mg, 0.128 mmol) and (cis)-1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 87) (399 mg, 1.282 mmol) and phenylboronic acid (234 mg, 1.923 mmol) in toluene (12 mL) was treated with 2,6-lutidine (0.209 mL, 1.795 mmol) and the resulting mixture was stirred vigorously in air for 72 h then was partitioned between AcOEt (50 mL) and a saturated NaHCO3 aqueous solution (25 mL). The layers were separated and the organic phase dried over Na2SO4 and concentrated in vacuovacuo. Purification of the residue by SP4 using a 25 G silica cartridge (gradient:0 to 100% AcOEt in Hexanes) gave (cis)-1-acetyl-6-bromo-N-phenyl-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine (155 mg, 0.40 mmol, 31%) as a yellow oil which solidified on standing.

reactant | myristic acid | 0.385 mmol, 88 mg | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | (cis)-1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)CCC | C14H19BrN2O
reactant | phenylboronic acid | 1.923 mmol, 234 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,6-lutidine | 1.795 mmol, 0.209 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II) acetate | 0.128 mmol, 23.29 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (cis)-1-acetyl-6-bromo-N-phenyl-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine | 0.40 mmol, 155 mg, 31% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC1=CC=CC=C1)CCC | C20H23BrN2O
